US08242145B2
Step 2: {4-Methoxy-3-[4-morpholin-4-yl-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid
{4-Methoxy-3-[4-morpholin-4-yl-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester (0.43 mmol) ini MeOH and H2O was treated with lithium hydroxide, and the reaction was stirred at 60° C. for 20 minutes. The mixture was acidified and concentrated, and the reside was purified by preparative HPLC to give the title compound.

reactant | {4-Methoxy-3-[4-morpholin-4-yl-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | 0.43 mmol | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N1CCOCC1)CN1C(OCC1)=O)=O | C25H30N2O7
reactant | MeOH | CO | CH4O
reactant | lithium hydroxide | [OH-].[Li+]
solvent | H2O | O | H2O
product | {4-Methoxy-3-[4-morpholin-4-yl-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid | COC1=C(C=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)N1CCOCC1)CN1C(OCC1)=O | C23H26N2O7
